data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC(=O)N[N:10]([C:20](=[OH+:21])OCC)[P:11](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC4CC(=O)N(C4)C.C1=CC(=CC=C1C(=O)[O-])[N+](=O)[O-]>>CCOC(=O)N[N:10]=[C:20]([OH:21])OCC.CN1CC(CC1=O)O[P+:11](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.C1=CC(=CC=C1C(=O)[O-])[N+](=O)[O-] 10,11=10,20;20,21=21
COC(CCC1=CC=CC=C1)C[CH+:20][CH2:10][Si-:11](C)(C)(C)[O+](C)[Fe-](Cl)(Cl)Cl>>COC(CCC1=CC=CC=C1)C[CH:20]=[CH2:10].C[O+]([Si:11](C)(C)C)[Fe-](Cl)(Cl)Cl 10,11=10,20
CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)[OH:10].CC1=CN(C(=O)NC1=O)C2CC(C(O2)COC(C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)O[PH+:20](N(C(C)C)C(C)C)OCCC#N.C1=NN=N[N-]1>>CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)[OH+:10][PH:20](N(C(C)C)C(C)C)(OCCC#N)OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C.C1=NN=N[N-]1 10=20,
C[Si:20](C)(C)OCC#[C-].[F-:10]>>C[Si-:20](C)(C)(OCC#[C-])[F:10] 10=20,
C[C:20]([NH3+:21])(O)[OH:10].[Cl-]>>C[C:20](=[OH+:10])O.[NH3:21].[Cl-] 10=20;20,21=21
CC[O-:10].CC(=O)[CH2:20][Br:21]>>CC[O:10][CH2:20]C(=O)C.[Br-:21] 10=20;20,21=21
[H:20][O+:21](C)[Si-](C)(C)(C)Cl.C[OH:10]>>[H:20][OH+:10]C.C[O:21][Si-](C)(C)(C)Cl 10=20;20,21=21
[H:20][CH:21](C)[CH:22](CC)[Br:23].CC[O-:10]>>[H:20][O:10]CC.CC[CH:22]=[CH:21]C.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21](C1CCC2(C(C1)CCC3C2CCC4(C3CCC4C(C)CCCC(C)C)C)C)P(C5=CC=CC=C5)(C6=CC=CC=C6)(C7=CC=CC=C7)N(C(=O)OCC)NC(=O)OCC.CCCCCCCCCCCCOC1=CC=C(C=C1)C(=O)[O-:10]>>[H:20][O:10]C(=O)C1=CC=C(C=C1)OCCCCCCCCCCCC.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]C4CCC5(C(C4)CCC6C5CCC7(C6CCC7C(C)CCCC(C)C)C)C 10=20;20,21=21
[H:20][OH+:21][Na].C1CC2[CH:10](C1)[C:11]2(O)[O-:12].[Na+].[Cl-]>>[H:20][CH:10]1CCCC1[C:11](=[O:12])O.[OH:21][Na].[Na+].[Cl-] 10,11=10,20;20,21=21;12=11
C[Si-:10](C)(C)(F)[Cl:11]>>C[Si:10](C)(C)F.[Cl-:11] 10,11=11
[H:20][CH:21]1CCCC([CH:22]1[Br:23])C=CC.[NH2-:10]>>[H:20][NH2:10].CC=CC1CCC[CH:21]=[CH:22]1.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1=CC=CC=C1.CC1(CCC2(CC1)OCC[O:10]2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>[H:20][O+:10]1CCOC12CCC(CC2)(C)O.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
CC[O-:10].CC=C[CH2:20][Cl:21]>>CC[O:10][CH2:20]C=CC.[Cl-:21] 10=20;20,21=21
C[C:20](=[OH+:21])OC.C[NH:10]C.[Cl-]>>C[C:20]([NH+:10](C)C)([OH:21])OC.[Cl-] 10=20;20,21=21
C[C:20](=[OH+:21])C.C[OH:10]>>C[C:20](C)([OH:21])[OH+:10]C 10=20;20,21=21
[Li][N:20]([N:10]=CC1=CC=CC=C1)[S:21](=O)(=O)C2=CC=C(C=C2)C.[Li]C(CC1=C(C=CC=C1)I)(C(=O)OCC)C(=O)OCC.[Li]OC(=C(CC1=C(C=CC=C1)I)C(=O)OCC)OCC.CCOC(=O)C(CC1=C(C=CC=C1)I)C(=O)OCC.CCOC(=O)[C-](CC1=C(C=CC=C1)I)C(=O)OCC.CCOC(=C(CC1=C(C=CC=C1)I)C(=O)OCC)[O-].CC(C)(C)O.C1=CC=C(C=C1)C=CC(=O)C=CC2=CC=CC=C2>>[Li][N:20]=[N+:10]=CC1=CC=CC=C1.CC1=CC=C(C=C1)[S-:21](=O)=O.[Li]C(CC1=C(C=CC=C1)I)(C(=O)OCC)C(=O)OCC.[Li]OC(=C(CC1=C(C=CC=C1)I)C(=O)OCC)OCC.CCOC(=O)C(CC1=C(C=CC=C1)I)C(=O)OCC.CCOC(=O)[C-](CC1=C(C=CC=C1)I)C(=O)OCC.CCOC(=C(CC1=C(C=CC=C1)I)C(=O)OCC)[O-].CC(C)(C)O.C1=CC=C(C=C1)C=CC(=O)C=CC2=CC=CC=C2 10=20;20,21=21
[H:20][N+:21]1(CCCC1C2=CN=CC=C2)C.C(=O)([O-:10])[O-].[Br-]>>[H:20][O:10]C(=O)[O-].C[N:21]1CCCC1C2=CN=CC=C2.[Br-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)Br)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.[CH:22]1=[C:21](OC=C1Br)[N+](=O)[O-] 10=20;20,21=21,22
CO[C:20](=[O:21])OCC[O-:10]>>CO[C:20]1(OCC[O:10]1)[O-:21] 10=20;20,21=21
C1CO[C:20](OC1)([NH3+:21])[OH:10]>>C1CO[C:20](=[OH+:10])OC1.[NH3:21] 10=20;20,21=21
[H:20][N+:21](CC)(CCN(CCC(C)C)CCCl)C(C)C.CC(C)CC[NH:10]CCCCC(=O)N1CCCC1.[Cl-]>>[H:20][NH+:10](CCCCC(=O)N1CCCC1)CCC(C)C.CC[N:21](CCN(CCC(C)C)CCCl)C(C)C.[Cl-] 10=20;20,21=21
[H:20][O:21]C(=O)C1CC[C+]2C13CCC(C3)C(C2C)(C)C.CC1C2CCC(C23CCC(C3)C1(C)C)C(=O)[O-:10]>>[H:20][O:10]C(=O)C1CCC2C13CCC(C3)C(C2C)(C)C.CC1[C+]2CCC(C23CCC(C3)C1(C)C)C(=O)[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CC[NH:10]C(C)O>>[H:20][NH+:10](CC)C(C)O.[OH2:21] 10=20;20,21=21
C[C:20](=[O:21])CC=C(C)[NH:10]C1=C(C=CC=C1)Br.CC(=O)O.O>>CC1=CC[C:20]([NH+:10]1C2=C(C=CC=C2)Br)(C)[O-:21].CC(=O)O.O 10=20;20,21=21
[Mg+:20]Br.[P:10](Cl)(Cl)Cl>>[Mg:20]([P+:10](Cl)(Cl)Cl)Br 10=20,
CC(C(=[N+]=[N-])[P:20](=O)(OC)OC)[O-:10]>>CC1C(=[N+]=[N-])[P-:20](=O)([O:10]1)(OC)OC 10=20,
[H:20][O:21]C(=O)C(C(CCCCC(C)C)O)OC1=CC=CC=C1.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)CCCCC(C(C(=O)[O-:21])OC1=CC=CC=C1)O 10=20;20,21=21
[H:20][NH2+:21]C1CC(C(CC1SC)CCC2=CC=CC=C2)CC.[NH3:10].[B-](F)(F)(F)F.CSC>>[H:20][NH3+:10].CCC1CC(C(CC1CCC2=CC=CC=C2)SC)[NH2:21].[B-](F)(F)(F)F.CSC 10=20;20,21=21
[CH3:20][Br:21].[CH2-:10]C1=NC=CC=C1>>[CH3:20][CH2:10]C1=NC=CC=C1.[Br-:21] 10=20;20,21=21
[Li][O:12][C:11](=[CH:10]C=CC)OCC.[CH3:20][I:21].[Li][NH+](C(C)C)C(C)C>>[Li][O+:12]=[C:11]([CH:10]([CH3:20])C=CC)OCC.[I-:21].[Li][NH+](C(C)C)C(C)C 10,11=10,20;20,21=21;12=11
C[O+:11](C)[Si-:10](C)(C)(C)OS(=O)(=O)C>>C[O:11]C.C[Si:10](C)(C)OS(=O)(=O)C 10,11=11
CN[C:20](=[O:21])OC.[Cl-:10]>>CN[C:20]([O-:21])(OC)[Cl:10] 10=20;20,21=21
